US09034880B2
2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.15 g, 0.75 mmole), 3-(trifluoromethyl)-5-vinylpyridine (0.13 g, 0.75 mmole) and, tetra butyl ammonium chloride (2 mg, 0.0375 mmole) were charged in 5 ml, 50% aqueous NaOH. The reaction mixture at 100° C. for 8 hrs. The reaction mass was cool at RT, added 5 ml water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulphate, concentrated and purified by Prep HPLC to get 2,8-dimethyl-5-(2-(5-(trifluoromethyl) pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (35 mg).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.75 mmole, 0.15 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 3-(trifluoromethyl)-5-vinylpyridine | 0.75 mmole, 0.13 g | FC(C=1C=NC=C(C1)C=C)(F)F | C8H6F3N
reactant | water | 5 ml | O | H2O
catalyst | tetra butyl ammonium chloride | 0.0375 mmole, 2 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NaOH | 5 ml | [OH-].[Na+]
product | 2,8-dimethyl-5-(2-(5-(trifluoromethyl) pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 35 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC=C(C2)C(F)(F)F)CC1 | C21H22F3N3
